Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with history of CAD s/p stents to OM2 in
___ and positive nuclear ETT with 99% LAD s/p PCI ___,
hypertension, and dyslipidemia, who presented with presyncope.

He reported a pre-syncope event on the morning of admission 
after
walking ___ mile to ___. He experienced mild chest/epigastric
discomfort, not consistent with prior episode of ACS, as well as
shortness of breath. Patient felt lightheaded, diaphoretic,
nauseous, without emesis. He sat down and felt better after
approximately 20 minutes. He has been asymptomatic since. 
Patient
reported recent symptoms of URI with minimal residual cough for
the past couple of weeks and also had his flu shot last week. He
endorses being around sick contacts w/ his wife, children, and
grandchildren having colds. He denied fevers, chills, headache,
dizziness, blurry vision, chest pain, abdominal pain, dysuria,
hematuria, diarrhea or constipation.

Of note, his typical angina symptoms is chest pain throughout 
the
chest. And he had exertional pain when he swam. His symptoms now
are not similar to this. In addition, he has not had any
exertional pain when he has swam in the past week. He also has
found that his blood pressure runs low at home when he checks
with an automatic cuff, going as low as the high ___ systolics
and 100s/30s after taking his morning medications. He took all
his morning meds before going to ___ this AM. There has not
been any changes to his blood pressure medications since ___. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  

2. CARDIAC HISTORY  
- CAD with cath ___ status post resolute overlapping stents
to OM2 and positive nuc ETT with 99% LAD s/p PCI ___

3. OTHER PAST MEDICAL HISTORY 
GERD
Anxiety 

 
Social History:
___
Family History:
His father had an MI at age ___.  There is no history of sudden
death in the family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.1 PO 127/66 R Lying 82 20 100 RA 
GENERAL: Well developed, overweight man lying back in bed, NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No xanthelasma.  
NECK: Supple. JVP not discernible when sitting @ 60 degrees.  
CARDIAC: Distant heart sounds.Regular rate and rhythm. Normal 
S1,
S2. No murmurs, rubs, or gallops. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Obese, soft, non-tender, non-distended. No 
hepatomegaly.
No splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
trace
edema to ankles.  
SKIN: No significant skin lesions or rashes. Cherry angiomas on
abdomen. 
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM:
=======================
VS: Temp: 97.9 (Tm 98.4), BP: 125/68 (113-131/52-77), HR: 69
(69-80), RR: 17 (___), O2 sat: 98% (94-98), O2 delivery: RA
GENERAL: Well developed, overweight man lying back in bed, NAD.
Oriented x3. 
HEENT: Sclera anicteric. MMM. 
NECK: Supple. JVP not discernible when sitting @ 60 degrees.  
CARDIAC: Distant heart sounds. Regular rate and rhythm. Normal
S1, S2. No murmurs, rubs, or gallops. No thrills or lifts.  
LUNGS: CTABL, nl WOB on room air  
ABDOMEN: Obese, soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, does
have some trace edema to ankles.  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:35AM BLOOD WBC-18.3* RBC-4.61 Hgb-14.0 Hct-42.6 
MCV-92 MCH-30.4 MCHC-32.9 RDW-12.5 RDWSD-41.7 Plt ___
___ 11:35AM BLOOD Neuts-92.1* Lymphs-3.3* Monos-3.4* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-16.84* AbsLymp-0.60* 
AbsMono-0.62 AbsEos-0.03* AbsBaso-0.05
___ 11:35AM BLOOD ___ PTT-21.9* ___
___ 11:35AM BLOOD Glucose-146* UreaN-24* Creat-1.0 Na-137 
K-4.8 Cl-99 HCO3-24 AnGap-14
___ 05:40AM BLOOD Calcium-9.6 Phos-3.3 Mg-2.1

CARDIAC ENZYMES:
================
___ 11:35AM BLOOD cTropnT-<0.01
___ 05:30PM BLOOD cTropnT-<0.01
___ 05:40AM BLOOD cTropnT-<0.01

MICROBIOLOGY:
=============
URINE CULTURE NEGATIVE
BLOOD CULTURES NGTD, FINAL PENDING

DISCHARGE LABS:
===============
___ 07:13AM BLOOD WBC-9.7 RBC-4.24* Hgb-13.1* Hct-39.0* 
MCV-92 MCH-30.9 MCHC-33.6 RDW-12.3 RDWSD-41.4 Plt ___
___ 07:13AM BLOOD ___ PTT-27.6 ___
___ 07:13AM BLOOD Glucose-115* UreaN-21* Creat-0.8 Na-139 
K-4.8 Cl-99 HCO3-27 AnGap-13
___ 07:13AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.2

IMAGING AND STUDIES:
====================
___ CXR
Lungs are clear.  Heart size is normal.  There are degenerative 
changes
involving the thoracic spine.  There is no pleural effusion.  No 
pneumothorax
is seen

___ EXERCISE STRESS AND MIBI
INTERPRETATION: This ___ year old man with BMI of 36.7 and h/o 
CAD
s/p DES to LAD in ___ was referred to the lab for evaluation 
of chest
discomfort. He exercised for 9 minutes on modified ___ 
protocol and
stopped for fatigue. The peak estimated MET capacity is 7, which
represents an average exercise tolerance for his age. No chest, 
arm,
neck or back discomfort reported. At peak exercise a 0.5-1 mm 
upsloping
ST segment depression noticed in the inferior leads and V4-V6, 
as well
as a 0.___levation in lead aVR. These IL ST segment 
changes became
horizontal during recovery before it returned to baseline by 5 
minutes
post-exercise. Rhythm was sinus with rare isolated VPBs. 
Baseline
systolic HTN with appropriate BP response to exercise and 
recovery. HR
response to exercise was slightly blunted in the presence of 
beta
blockade.
IMPRESSION : Iscehmic EKG changes in the absence of anginal 
symptoms to
the achieved workload. Average functional capacity. Nuclear 
report sent
separately.

CARDIAC PERFUSION: Normal myocardial perfusion. Calculated left 
ventricular ejection fraction is 65%.
 
Brief Hospital Course:
___ with history of CAD s/p stents to OM2 in ___ and 
positive nuclear ETT with 99% LAD s/p DES ___, hypertension, 
and dyslipidemia, who presented with presyncope and had a 
negative work-up for myocardial infarction. 

ACTIVE ISSUES: 
===============
#PRESYNCOPE 
#CORONARY ARTERY DISEASE
The patient presented after feeling chest/epigastric discomfort 
with lightheadedness, diaphoresis and nausea while walking. This 
resolved with 20 minutes of rest. He presented to the ED where 
EKG was non-concerning for ST segment changes and troponins were 
negative x3. He was admitted for a stress test and had an 
ETT-MIBI that demonstrated no anginal symptoms, and normal 
myocardial perfusion. He continued his home aspirin, 
clopidogrel, carvedilol, and atorvastatin. His home benzapril 
and furosemide were initially held with concern for 
hypotension/orthostatis, but were resumed upon discharge. 
Patient remained hemodynamically stable and did not have any 
further chest pain or presyncopal symptoms during his hospital 
stay. 

#LEUKOCYTOSIS 
He presented with an elevated WBC to 18 with >90% neutrophils. 
This resolved by the morning following admission and he had no 
signs of infection. 

CHRONIC ISSUES:
===============
#HYPERTENSION
His home amlodipine and carvedilol were continued. His home ACEi 
was initially held with concern for hypotention/orthostatis, but 
was resumed upon discharge. 

#HYPERLIPIDEMIA 
His home atorvastatin was continued. 

#GERD
His home pantoprazole was continued. 

#ANXIETY
His home buspirone and citalopram were continued. 

TRANSITIONAL ISSUES
==================
[ ] Continue to monitor patient for anginal symptoms. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO EVERY OTHER DAY 
2. Clopidogrel 75 mg PO DAILY 
3. Citalopram 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. amLODIPine 10 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
7. benazepril 40 mg oral DAILY 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. BusPIRone 10 mg PO BID 
10. Pantoprazole 40 mg PO Q24H 
11. Vitamin D 1500 UNIT PO DAILY 
12. Glucosamine (glucosamine sulfate) 500 mg oral Sometimes 
13. Loratadine 10 mg PO DAILY 
14. Multivitamins 1 TAB PO DAILY 
15. Carvedilol 6.25 mg PO BID 
16. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  benazepril 40 mg oral DAILY  
5.  BusPIRone 10 mg PO BID  
6.  Carvedilol 6.25 mg PO BID  
7.  Citalopram 10 mg PO DAILY  
8.  Clopidogrel 75 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Furosemide 20 mg PO EVERY OTHER DAY  
11.  Glucosamine (glucosamine sulfate) 500 mg oral Sometimes  
12.  Loratadine 10 mg PO DAILY  
13.  Multivitamins 1 TAB PO DAILY  
14.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
15.  Pantoprazole 40 mg PO Q24H  
16.  Vitamin D 1500 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
-Presyncope
-Chest pain
-Coronary artery disease
-Leukocytosis 

Secondary Diagnoses
-Hypertensino
-Hyperlipidemia
-GERD
-Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure being involved in your care. 

Why you were admitted to the hospital:
======================================
You were admitted to the hospital after feeling chest and 
epigastric discomfort, lightheadedness, sweating and nausea 
while walking. 

What happened in the hospital:
==============================
- You had tests that showed that you were not having a heart 
attack. 
- You had a stress test that showed your heart was work well 
while you exercised, and there was no evidence of blood flow 
blockage. 

What you should do when you leave the hospital:
===============================================
- Take all of your medications as described below.
- Attend all of your follow-up appointments as described below. 
- If you have not heard from your primary care doctor by 
___, please call to schedule a follow-up appointment: 
___  Phone: ___ 
- If you have not heard from your cardiology doctor by ___ 
___, please call to schedule a follow-up appointment: ___, 
___  Phone: ___ 

We wish you the best!
Your ___ Team 
 
Followup Instructions:
___